US07423147B2
Step B. (2-Methoxy-ethyl)-[6-(4-piperidin-1-yl-but-1-ynyl)-pyridin-2-ylmethyl]-amine.
The title compound (13%) was prepared in a manner similar to that described in Example 18, Step D, using (6-bromo-pyridin-2-ylmethyl)-(2-methoxy-ethyl)-amine (0.300 g, 1.23 mmol) and 1-but-3-ynyl-piperidine (0.336 g, 2.45 mmol). MS (ESI): exact mass calcd. for C18H27N3O, 301.44; m/z found, 302.4 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.56 (t, 7.7, 1H), 7.26 (d, J=7.1, 1H), 7.23 (d, J=7.7, 1H), 3.90 (s, 2H), 3.52-3.45 (m, 2H), 3.34 (s, 3H), 2.80 J=5.2, 2H), 2.70-2.59 (m, 4H), 2.48-2.40 (m, 4H), 1.67-1.54 (m, 5H), 1.46-1.38 (m, 2H).

reactant | (6-bromo-pyridin-2-ylmethyl)-(2-methoxy-ethyl)-amine | 1.23 mmol, 0.300 g | BrC1=CC=CC(=N1)CNCCOC | C9H13BrN2O
reactant | 1-but-3-ynyl-piperidine | 2.45 mmol, 0.336 g | C(CC#C)N1CCCCC1 | C9H15N
product | (2-Methoxy-ethyl)-[6-(4-piperidin-1-yl-but-1-ynyl)-pyridin-2-ylmethyl]-amine | 13% | COCCNCC1=NC(=CC=C1)C#CCCN1CCCCC1 | C18H27N3O
